US06509499B1
1.31 ml (16.2 mmol) of pyridine, dried over potassium hydroxide, and 2.5 g (9.82 mmol) of 4-(methylsulphonyl)benzenesulphonyl chloride are successively added to a solution, maintained under a nitrogen atmosphere, of 1.6 g (6.55 mmol) of 3,5-dimethyl-4-[(nitromethyl)sulphonyl]aniline in 50 ml of anhydrous tetrahydrofuran. The reaction medium is stirred for 2 days at room temperature and then poured into 200 ml of water. The mixture obtained is brought to pH 3 by addition of 1N hydrochloric acid and is then extracted with 3 times 200 ml of ethyl acetate. The combined organic extracts are washed with water, dried over sodium sulphate and concentrated to dryness under reduced pressure. The residue is purified by chromatography on a column of silica (eluent: 2/1 methylene chloride/ethyl acetate) and recrystallization from a mixture of hexane and ethyl acetate, to give 0.78 g (26%) of N-[3,5-dimethyl-4-[(nitromethyl)sulphonyl]phenyl]-4-(methylsulphonyl)benzenesulphonamide.

reactant | pyridine | 16.2 mmol, 1.31 ml | N1=CC=CC=C1 | C5H5N
reactant | potassium hydroxide | [OH-].[K+]
reactant | 4-(methylsulphonyl)benzenesulphonyl chloride | 9.82 mmol, 2.5 g | CS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO4S2
reactant | 3,5-dimethyl-4-[(nitromethyl)sulphonyl]aniline | 6.55 mmol, 1.6 g | CC=1C=C(N)C=C(C1S(=O)(=O)C[N+](=O)[O-])C | C9H12N2O4S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | N-[3,5-dimethyl-4-[(nitromethyl)sulphonyl]phenyl]-4-(methylsulphonyl)benzenesulphonamide | 0.78 g, 26% | CC=1C=C(C=C(C1S(=O)(=O)C[N+](=O)[O-])C)NS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)C | C16H18N2O8S3
